US05541229
4'-[(2-n-Butyl-6-phenylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid
Prepared in analogous manner to Example 9 from tert.butyl 4'-[(2-n-butyl-6-phenylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate and trifluoroacetic acid.

reactant | tert.butyl 4'-[(2-n-butyl-6-phenylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)NC(=O)NC2=CC=CC=C2 | C36H38N4O3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 4'-[(2-n-Butyl-6-phenylaminocarbonylamino-benzimidazol-1-yl)-methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)NC(=O)NC2=CC=CC=C2 | C32H30N4O3
